### PR TITLE
make Fix_eq a bit easier to use

### PR DESCRIPTION
**Pull request by OwenConoly**
An extensionality hypothesis of the `Fix_eq` lemma is unnecessarily strong, so I have weakened it here.

I've had some mild inconvenience with proving fixpoint equations, which would've been alleviated by this change.  I don't have an example on hand, but I could come up with one if somebody would like to see it.

### CODE REVIEW

File: theories/Init/Wf.v [hunk 1]
```diff
@@ -99,7 +99,7 @@ Section Well_founded.
   Hypothesis
     F_ext :
       forall (x:A) (f g:forall y:A, R y x -> P y),
-        (forall (y:A) (p:R y x), f y p = g y p) -> F f = F g.
+        (forall (y:A) (p q:R y x), f y p = g y q) -> F f = F g.
```
Comment (SkySkimmer) [inline theories/Init/Wf.v:102]: Doesn't this strengthen the hypothesis, not weaken it? I think I would like to see an example.

Comment (OwenConoly) [reply theories/Init/Wf.v:102]: It strengthens the hypothesis of the hypothesis of Fix_eq, thereby weakening the hypothesis of Fix_eq (that is, weakening F_ext), thereby strengthening Fix_eq.  A fun triple-negative sort of thing.

Here's an example.  The proof script is a bit contrived, so that the example can be minimal.

```
Require Import Coq.Init.Peano.

Lemma lt_wf : well_founded lt.
Proof.
  cbv [well_founded]. intros a. induction a.
  - constructor. intros y H. inversion H.
  - constructor. intros y H. inversion H.
    + subst. assumption.
    + subst. destruct IHa as [IHa]. apply IHa. assumption.
Defined.

Definition F_body
  (n : nat)
  (F : forall m, lt m n -> bool * bool)
  : bool * bool.
refine (match n as x return n = x -> _ with
        | S n' => fun _ => let '(a, b) := F n' _ in (a, b)
        | O => fun _ => (true, true)
        end eq_refl).
Proof. subst. constructor. Defined.

Definition F :=
  Fix lt_wf _ F_body.

(*a proof using the usual version of Fix_eq*)
Lemma unfold_F tup : F tup = F_body tup (fun y _ => F y).
Proof.
  cbv [F].
  apply (@Fix_eq _ _ lt_wf _ F_body).

  intros x f g H. cbv [F_body]. destruct x; [reflexivity|].
  destruct (f _ _) eqn:Ef, (g _ _) eqn:Eg.
  rewrite H in Ef.
  Fail rewrite Ef in Eg. (* in order to do this, we must prove that the proof terms are equal, which could be annoying sometimes *)
  cbv [eq_ind_r eq_ind eq_sym] in Ef, Eg.
  rewrite Ef in Eg.
  apply Eg.
Qed.

Axiom Fix_eq' :
  forall (A : Type) (R : A -> A -> Prop) (Rwf : well_founded R) 
    (P : A -> Type) (F : forall x : A, (forall y : A, R y x -> P y) -> P x),
    (forall (x : A) (f g : forall y : A, R y x -> P y),
        (forall (y : A) (p q : R y x), f y p = g y q) -> F x f = F x g) ->
    forall x : A, Fix Rwf P F x = F x (fun (y : A) (_ : R y x) => Fix Rwf P F y).

(*a proof using the other version of Fix_eq*)
Lemma unfold_F' tup : F tup = F_body tup (fun y _ => F y).
Proof.
  cbv [F].
  apply (@Fix_eq' _ _ lt_wf _ F_body).

  intros x f g H. cbv [F_body]. destruct x; [reflexivity|].
  destruct (f _ _) eqn:Ef, (g _ _) eqn:Eg.
  erewrite H in Ef.
  rewrite Ef in Eg. (*does not require proving equality of proof terms*)
  apply Eg.
Qed.

```

**Comment by SkySkimmer** [comment]
@coq/stdlib-maintainers please handle this

**Comment by SkySkimmer** [comment]
@coqbot run full ci

**Review by SkySkimmer — APPROVED** [review]
With no reaction from @rocq-prover/stdlib-maintainers I'll say that if CI passes this should be mergeable.
However a changelog entry is necessary (run dev/tools/make-changelog.sh and follow its instructions, then commit the resulting file and push)

**Comment by SkySkimmer** [comment]
That's a significant amount of breakage. You can instead leave the current `foo` lemmas alone and define new `foo_gen` lemmas (or some such name) with the more general type.

**Comment by SkySkimmer** [comment]
Doesn't seem like it will be ready for 9.1.

**Comment by OwenConoly** [comment]
I'm only mostly sure that the convenience of having the `_gen` lemmas is worth the confusion of having two versions of the lemmas, but I've added them.

The automated checks seem happy, so this is ready to merge AFAICT.

**Review by SkySkimmer — APPROVED** [review]

**Comment by SkySkimmer** [comment]
@coqbot run full ci

**Comment by SkySkimmer** [comment]
@coqbot merge now
